US06713472B1
(2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-(2,3-dihydrofuran-5-yl)-1-oxo-3-phenylpropane (Compound No. 16-1)
A solution of 2,3-dihydrofuran (80 μl) in anhydrous tetrahydrofuran (2 ml) is cooled to −78° C., a 1.55 N tert-butyllithium/pentane solution (660 g 1) is added thereto, and the mixture is stirred for one hour. The mixture is added to a solution of N1-methoxy-N1-methyl-(2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionamide (295 mg, Compound No. 1-51) in anhydrous tetrahydrofuran (3 ml) cooled at −78° C., and the whole is stirred for two hours. The temperature is raised to 0° C., and the reaction mixture is stirred for 30 minutes. A saturated aqueous ammonium chloride solution is added to the reaction mixture, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (38.4 mg).

reactant | 2,3-dihydrofuran | 80 μl | O1CCC=C1 | C4H6O
reactant | tert-butyllithium pentane | 1.55 N, 660 g | C(C)(C)(C)[Li].CCCCC
reactant | N1-methoxy-N1-methyl-(2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionamide | 295 mg | CON(C([C@H](CC1=CC=CC=C1)NC(=O)CN1C(C(N(C=C1C1=CC=CC=C1)C(C)=O)C(C)C)=O)=O)C | C28H34N4O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-(2,3-dihydrofuran-5-yl)-1-oxo-3-phenylpropane | 38.4 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(=O)C1=CCCO1)CC1=CC=CC=C1)=O)C(C)C | C30H33N3O5
